### PR TITLE
[Merged by Bors] - feat: a map is smooth iff its post-composition with an immersion is

### PR DESCRIPTION
**Pull request by grunweg**
A future PR will use this to golf the results in `Icc/Instances.lean`; we will also use this to study bordism theory.

---

- [x] depends on: #28793
- [x] depends on: #28796
- [x] depends on: #28853 (for simplicity)
- [x] depends on: #40810

#28905 is not actually required (nor useful) here

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Geometry/Manifold/IsImmersionEmbedding.lean [hunk 1]
```diff
@@ -0,0 +1,667 @@
...
+  have h'''' : ContDiffWithinAt 𝕜 n ((Prod.fst ∘ h.equiv.symm) ∘ f'') s x' := by
+    refine ContDiffWithinAt.comp x' ?_ h''' (mapsTo_univ _ _)
+    rw [contDiffWithinAt_univ]
+    exact contDiffAt_fst.comp _ h.equiv.symm.contDiff.contDiffAt
+  exact h''''.congr_of_mem (fun y hy ↦ by simp [f'']) hx'
+
+lemma ContMDiffAt.iff_comp_isImmersionAt
+    [IsManifold I n M] [IsManifold J n N] [IsManifold J' n N']
+    {f : M → N} {φ : N → N'} (h : IsImmersionAt F J J' n φ (f x))
+    (hf : ContinuousAt f x) : -- TODO: is this hypothesis needed?
```
Comment (peabrainiac) [inline Mathlib/Geometry/Manifold/IsImmersionEmbedding.lean]: At least globally, this condition is indeed necessary - when a `φ` satisfies this even for discontinuous `f` it means in particular that any function to a fibre of `φ` is smooth, so `φ` has to be injective. If you then take `f` to be the map from the image of `φ` to the domain of `φ` that you get from injectivity you can even show that `φ` has to be an embedding. I haven't thought about the local variant of this much but assume it is similar.

Comment (peabrainiac) [reply Mathlib/Geometry/Manifold/IsImmersionEmbedding.lean]: Actually I'm not sure the last step of what I said works, because the image of an injective immersion is not always a submanifold... either way, without assuming continuity this definitely won't hold for most immersions.

File: Mathlib/Analysis/Calculus/ContDiff/Defs.lean [hunk 2]
```diff
@@ -254,6 +254,13 @@ theorem ContDiffWithinAt.congr (h : ContDiffWithinAt 𝕜 n f s x) (h₁ : ∀ y
     (hx : f₁ x = f x) : ContDiffWithinAt 𝕜 n f₁ s x :=
   h.congr_of_eventuallyEq (Filter.eventuallyEq_of_mem self_mem_nhdsWithin h₁) hx
 
+/-- Version of `ContDiffWithinAt.congr` where `x` need not be contained in `s`,
```
Comment (grunweg) [inline Mathlib/Analysis/Calculus/ContDiff/Defs.lean:257]: This is unused now, but was used in a previous version of this PR. I don't mind removing it from this PR, but it also seems fine to have.

File: Mathlib/Geometry/Manifold/ContMDiff/Defs.lean [hunk 3]
```diff
@@ -392,6 +392,16 @@ theorem contMDiffWithinAt_iff_image {x : M} (he : e ∈ maximalAtlas I n M)
   refine fun _ => contDiffWithinAt_congr_set ?_
   simp_rw [e.extend_symm_preimage_inter_range_eventuallyEq hs hx]
 
+theorem contMDiffAt_iff_of_mem_maximalAtlas {x : M} (he : e ∈ maximalAtlas I n M)
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/ContMDiff/Defs.lean:426]: Same here --- seems like a natural addition, but I don't need it any more.

**Comment by sgouezel** [comment]
Can you merge master? I can't get the cache, probably because of the recent cache mechanism change. Hopefully merging master would solve this.

**Comment by grunweg** [comment]
Sure, I have merged master.

File: Mathlib/Geometry/Manifold/Immersion.lean [hunk 4]
```diff
@@ -423,6 +426,72 @@ theorem contMDiffOn (h : IsImmersionAtOfComplement F I J n f x) :
...
+  -- Composing with a suitable projection to cancel the inclusion, we deduce that `f` is `C^n`.
+  have h'''' : ContDiffWithinAt 𝕜 n ((Prod.fst ∘ h.equiv.symm) ∘ f'') s x' := by
+    refine ContDiffWithinAt.comp x' ?_ h''' (mapsTo_univ _ _)
+    rw [contDiffWithinAt_univ]
+    exact contDiffAt_fst.comp _ h.equiv.symm.contDiff.contDiffAt
+  exact h''''.congr_of_mem (fun y hy ↦ by simp [f'']) hx'
+
+/-- A function `f : M → N` between `C^k` manifolds is `C^k` at `x` if and only if it is continuous
+at `x` and its composition `φ ∘ f` with a `C^k` immersion `φ : N → P` at `f x` is `C^k` at `x`. -/
+lemma _root_.ContMDiffAt.iff_comp_isImmersionAtOfComplement [IsManifold I n M]
```
Comment (sgouezel) [inline Mathlib/Geometry/Manifold/Immersion.lean]: I don't think the `IsManifold` assumption should be needed. You use it below in `contMDiffWithinAt_iff_of_mem_maximalAtlas`, but isn't `contMDiffWithinAt_iff` enough for your purposes?

Comment (grunweg) [reply Mathlib/Geometry/Manifold/Immersion.lean]: Not really: I want to use the immersion's codomain chart, as opposed to the codomain's extChartAt.

(There is currently no lemma which allows specifying only the target chart, but without any membership hypotheses in the maximal atlas.)

Comment (grunweg) [reply Mathlib/Geometry/Manifold/Immersion.lean]: Do you think
```
theorem contMDiffWithinAt_iff_target_of_mem_maximalAtlas
    (hf : e' ∈ maximalAtlas I' n M') (hx : f x ∈ e'.source) :
    ContMDiffWithinAt I I' n f s x ↔
      ContinuousWithinAt f s x ∧ ContMDiffWithinAt I 𝓘(𝕜, E') n ((e'.extend I') ∘ f) s x := by
  sorry
```
is true without additional `IsManifold` hypotheses?

Comment (sgouezel) [reply Mathlib/Geometry/Manifold/Immersion.lean]: Yes, sure. Since `e'` belongs to the maximal atlas, going back from e' to the standard chart respects smoothness, by definition.

I just had a look at the file ContMdiff.Defs, and indeed in this file there are a lot of `IsManifold` assumptions that can be dropped. Weirdly enough, the lemma `contMDiffWithinAt_iff_source_of_mem_maximalAtlas` contains an assumption `[IsManifold I n M]`, and if one removes the assumption the proof just goes through. I wonder why this is not spotted by one of the linters. In fact, all the `At` and `WithinAt` lemmas in this file don't need any `IsManifold` assumption. If you want, I can prepare a PR removing all them.

Comment (grunweg) [reply Mathlib/Geometry/Manifold/Immersion.lean]: The superfluous typeclasses are a known false negative in the unusedVariable linter: leanprover/lean4#7956
Nice catch! I have made #40786 with two trivial hypotheses removals; I'll be very happy to review a PR removing the others. (This requires more thought than I have at this time of night.)

Comment (sgouezel) [reply Mathlib/Geometry/Manifold/Immersion.lean]: ok, I'll prepare a PR removing the others.

Comment (grunweg) [reply Mathlib/Geometry/Manifold/Immersion.lean]: Thanks! For the record, I see how to remove the others now, but won't get to this until the late afternoon at least - me reviewing your PR will certainly be more efficient.

Comment (sgouezel) [reply Mathlib/Geometry/Manifold/Immersion.lean]: In fact I was wrong, I had read too quickly: the other ones can't be removed since they involve two different points `x` and `x'`, and going from one to the other is not smooth unless `IsManifold` holds. 

Still, your lemma above is true, and proved in #40795

Comment (grunweg) [reply Mathlib/Geometry/Manifold/Immersion.lean]: Thanks! #40810 tries to remove the `IsManifold` hypothesis, by proving a custom version of the lemma we need. I hit two roadblocks:
- one is about import re-organisation (and definitely solvable; the worst might be brainstorming the best path forward),
- we're missing a lemma `contMDiffWithinAt_zero` (which says `ContMDiff[s] 0 f x iff ContinuousWithinAt f s x`... and for that, `contDiffWithinAt_zero` requires x to be within s. Do you know how to fix that easily?

Comment (sgouezel) [reply Mathlib/Geometry/Manifold/Immersion.lean]: Your missing lemma is not true, which is why we don't have it. `ContMDiffWithinAt` (or `ContDiffWithinAt`) require the function to be continuous on a neighborhood of `x` within `s`, not just at `x` within `s`.

Comment (grunweg) [reply Mathlib/Geometry/Manifold/Immersion.lean]: That makes a lot of sense! The one application I have in mind for it `continuousWithinAt_iff_source` is still true; I have updated #40810 accordingly. Hopefully (still checking), this allows removing the IsManifold hypothesis here!

Comment (grunweg) [reply Mathlib/Geometry/Manifold/Immersion.lean]: This works; let me mark this PR as depending on #40810.

File: Mathlib/Geometry/Manifold/ContMDiff/Defs.lean [hunk 5]
```diff
@@ -7,6 +7,7 @@ module
 
 public import Mathlib.Geometry.Manifold.IsManifold.ExtChartAt
 public import Mathlib.Geometry.Manifold.LocalInvariantProperties
+import Mathlib.Analysis.Calculus.ContDiff.Defs
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/ContMDiff/Defs.lean]:
```suggestion
```

File: Mathlib/Geometry/Manifold/Immersion.lean [hunk 6]
```diff
@@ -59,6 +59,9 @@ This shortens the overall argument, as the definition of submersions has the sam
 * `IsImmersionAt.contMDiffAt`: if f is an immersion at `x`, it is `C^n` at `x`.
 * `IsImmersion.contMDiff`: if f is a `C^n` immersion, it is automatically `C^n`
   in the sense of `ContMDiff`.
+* `ContMDiffAt.iff_comp_isImmersionAt` and `ContMDiff.iff_comp_isImmersion`: a function `f : M → N`
+  between `C^n` manifolds is `C^n` (at `x`) if and only if it is continuous (at `x`)
```
Comment (sgouezel) [inline Mathlib/Geometry/Manifold/Immersion.lean]:
```suggestion
  is `C^n` (at `x`) if and only if it is continuous (at `x`)
```

File: Mathlib/Geometry/Manifold/Immersion.lean [hunk 7]
```diff
@@ -605,6 +672,15 @@ theorem contMDiffOn (h : IsImmersionAt I J n f x) : CMDiff[h.domChart.source] n
 theorem contMDiffAt (h : IsImmersionAt I J n f x) : CMDiffAt n f x :=
   h.isImmersionAtOfComplement_complement.contMDiffAt
 
+/-- A function `f : M → N` between `C^n` manifolds is `C^n` at `x` if and only if it is continuous
+at `x` and its composition `φ ∘ f` with a `C^n` immersion `φ : N → P` at `f x` is `C^n` at `x`. -/
+lemma _root_.ContMDiffAt.iff_comp_isImmersionAt [IsManifold I n M] {f : M → N} {φ : N → N'}
```
Comment (sgouezel) [inline Mathlib/Geometry/Manifold/Immersion.lean]: Do you really need the `IsManifold` assumption here? Same thing below.

Comment (grunweg) [reply Mathlib/Geometry/Manifold/Immersion.lean]: Indeed, not any more!

**Comment by grunweg** [comment]
-awaiting-author

File: Mathlib/Geometry/Manifold/Immersion.lean [hunk 8]
```diff
@@ -434,6 +437,70 @@ theorem contMDiffOn (h : IsImmersionAtOfComplement F I J n f x) :
...
+    exact ⟨(f ∘ (extChartAt I x).symm) y, ht hy.1, by simp⟩
+  -- Composing with a suitable projection to cancel the inclusion, we deduce that `f` is `C^n`.
+  have h'''' : ContDiffWithinAt 𝕜 n ((Prod.fst ∘ h.equiv.symm) ∘ f'') s x' := by
+    refine ContDiffWithinAt.comp x' ?_ h''' (mapsTo_univ _ _)
+    rw [contDiffWithinAt_univ]
+    exact contDiffAt_fst.comp _ h.equiv.symm.contDiff.contDiffAt
+  exact h''''.congr_of_mem (fun y hy ↦ by simp [f'']) hx'
+
+/-- A function `f : M → N` between `C^n` manifolds is `C^n` at `x` if and only if it is continuous
+at `x` and its composition `φ ∘ f` with a `C^n` immersion `φ : N → P` at `f x` is `C^n` at `x`. -/
```
Comment (sgouezel) [inline Mathlib/Geometry/Manifold/Immersion.lean]:
```suggestion
at `x` and its composition `φ ∘ f` with a `C^n` immersion `φ : N → N'` at `f x` is `C^n` at `x`. -/
```
To match the names of the variables in the statement (or switch `N'` to `P` if you prefer). Same thing in all the docstrings below.

**Review by sgouezel — COMMENTED** [review]
bors d+
Thanks!

**Comment by grunweg** [comment]
Thanks for the reviews!
bors merge
